US05342846
1-Cyclopropyl-6,8-difluoro-7-[3-(5-carboxy-1,2,3-triazol -1-yl)pyrrolidin-1-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
A mixture of 5-amino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (100 mg, 0.33 mmol), 3-(5-ethoxycarbonyl-1,2,3-triazol-1-yl)pyrrolidine hydrochloride (178 mg, 0.83 mmol) and diazabicycloundecane (127 mg, 0.83 mmol) was heated at 110° C. for 24 hrs. The mixture was concentrated, diluted with water and the separated solid was washed with water and acetonitrile. The solid was dried in air and redissolved in methanol (5 ml) and to it NaOH (20 mg) in water (5 ml) was added. The solution was heated at 90° C. for 6 hrs., cooled and pH lowered using 1N HCl to 4. The separated solid was filtered, recrystallized from methanol/ether, yield 20 mg (13.98%), m.p. 214° C. 1H NMR (TFA) δ: 1.30-1.62 (m, 4H), 2.70-3.0 (m, 2H), 3.74-4.80 (m, 5H), 5.60-5.70 (m, 1H), 8.86 (s, 1H), 9.14 (s, 1H).

reactant | 5-amino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.33 mmol, 100 mg | NC1=C2C(C(=CN(C2=C(C(=C1F)F)F)C1CC1)C(=O)O)=O | C13H9F3N2O3
reactant | 3-(5-ethoxycarbonyl-1,2,3-triazol-1-yl)pyrrolidine hydrochloride | 0.83 mmol, 178 mg | Cl.C(C)OC(=O)C1=CN=NN1C1CNCC1
reactant | diazabicycloundecane | 0.83 mmol, 127 mg | N1(NCCCCCCCCC1)C1CCCCCCCCCC1 | C20H40N2
product | 1-Cyclopropyl-6,8-difluoro-7-[3-(5-carboxy-1,2,3-triazol -1-yl)pyrrolidin-1-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC(CC1)N1N=NC=C1C(=O)O)F)=O)C(=O)O | C20H17F2N5O5
